US07468393B2
4-({4-[(E)-2-(2,4-difluorophenyl)vinyl]phenyl}sulfonyl)-N-methylbenzamide
To a solution of 4-({4-[(E)-2-(2,4-difluorophenyl)vinyl]phenyl}sulfonyl)benzoic acid (Example 69,40 mg, 0.1 mmol) in 1-methyl-2-pyrrolidinone (0.3 mL) was added 1,1′-carbonyldiimidazole (19.5 mg, 0.12 mmol). After stirring for 30 minutes, methylamine hydrochloride (8.1 mg, 0.12 mmol) was added and the reaction stirred for 4 hours. The mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 10% ethanol/ethyl acetate, to give the title compound. δH (500 MHz, d6 DMSO): 8.63 (1H, d, J=4.5 Hz), 8.04-7.94 (6H, m), 7.88-7.82 (3H, m), 7.42-7.34 (2H, m), 7.32-7.26 (1H, m), 7.14 (1H, td, J=1.9, 8.4 Hz), 2.76 (3H, d, J=4.5 Hz); m/z (ES+) 414 [MH+].

reactant | 4-({4-[(E)-2-(2,4-difluorophenyl)vinyl]phenyl}sulfonyl)benzoic acid | 0.1 mmol, 69,40 mg | FC1=C(C=CC(=C1)F)/C=C/C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H14F2O4S
reactant | 1,1′-carbonyldiimidazole | 0.12 mmol, 19.5 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine hydrochloride | 0.12 mmol, 8.1 mg | Cl.CN
solvent | 1-methyl-2-pyrrolidinone | 0.3 mL | CN1C(CCC1)=O | C5H9NO
product | 4-({4-[(E)-2-(2,4-difluorophenyl)vinyl]phenyl}sulfonyl)-N-methylbenzamide | FC1=C(C=CC(=C1)F)/C=C/C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C(=O)NC)C=C1 | C22H17F2NO3S
